US04072696
0.7 G. of 2-amino-4-n-butylthio-1-(3-methoxycarbonyl-2-thioureido)benzene is dissolved in 20 ml. tetrahydrofuran and treated with 1.5 ml. of acetyl chloride. The mixture is stripped after two hours and the residue recrystallized from methanol, yielding pure 2-acetamido-4-n-butylthio-1-(3-methoxycarbonyl-2-thioureido)benzene.

reactant | 2-amino-4-n-butylthio-1-(3-methoxycarbonyl-2-thioureido)benzene | NC1=C(C=CC(=C1)SCCCC)NC(=S)NC(=O)OC | C13H19N3O2S2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-acetamido-4-n-butylthio-1-(3-methoxycarbonyl-2-thioureido)benzene | C(C)(=O)NC1=C(C=CC(=C1)SCCCC)NC(=S)NC(=O)OC | C15H21N3O3S2
